US08106190B2
2-Fluoro-4-(trifluoromethyl)benzoyl chloride was added to a pyridine solution of 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one, followed by stirring at room temperature for 12 hours. Water was added to the reaction liquid, followed by stirring for 30 minutes and then the precipitated crystals were collected by filtration to obtain 2-fluoro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide.

reactant | 2-Fluoro-4-(trifluoromethyl)benzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
solvent | Water | O | H2O
product | 2-fluoro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide | FC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=CC(=C1)C(F)(F)F | C18H14F4N2O2
